US04367234
5-(2-Naphthyl)oxazolidine-2,4-dione
5-(2-Naphthyl)oxazolidin-4-one-2-thione (2.0 g., 8.2 mmoles) was partially dissolved in 25 ml. of aqueous ethanol at 50° C. Hydrogen peroxide (30%, 7 ml. was added) and the mixture refluxed for 4 hours. The reaction mixture was cooled, diluted with chloroform and water and the organic layer separated. The organic layer was extracted with saturated sodium bicarbonate. The bicarbonate layer was carefully acidified with dilute hydrochloric acid and the precipitated product recovered by filtration. Recrystallization from toluene gave purified 5-(2-naphthyl)oxazolidine-2,4-dione [0.2 g., m.p. 187°-188° C., pnmr/CDCl3 /delta: 6.54 (s, 1H), 7.3-8.1 (m, 7H)].

reactant | 5-(2-Naphthyl)oxazolidin-4-one-2-thione | 8.2 mmoles, 2.0 g | C1=C(C=CC2=CC=CC=C12)C1C(NC(O1)=S)=O | C13H9NO2S
reactant | ethanol | C(C)O | C2H6O
reactant | Hydrogen peroxide | 7 ml | OO | H2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5-(2-Naphthyl)oxazolidine-2,4-dione | C1=C(C=CC2=CC=CC=C12)C1C(NC(O1)=O)=O | C13H9NO3
